US07365225B2
Step b) Formation of methyl 2-(chloromethyl)-1,3-thiazole-4-carboxylate
Sodium methoxide (25% w/w in MeOH (44.62 g, 206.5 mmol)) was added slowly, (over 55 min.) whilst maintaining the temperature between 0 and 10° C., to ethyl 2-(dichloromethyl)-4,5-dihydro-1,3-thiazole-4-carboxylate (50.0 g, 206.5 mmol) in 50 mL of MeOH. An additional 50 mL of MeOH was added and stirred for 1 h. keeping the temperature below 10° C. DCM (125 mL) and water (71 mL) was added to the mixture and the organic layer was separated. The aqueous layer was extracted with a further 71 mL of DCM. The combined organic layers was dried over MgSO4 and evaporated in vacuo to give the crude product (34.6 g, 87%).

reactant | Sodium methoxide | 206.5 mmol, 44.62 g | C[O-].[Na+]
reactant | ethyl 2-(dichloromethyl)-4,5-dihydro-1,3-thiazole-4-carboxylate | 206.5 mmol, 50.0 g | ClC(C=1SCC(N1)C(=O)OCC)Cl | C7H9Cl2NO2S
reactant | DCM | 125 mL | C(Cl)Cl | CH2Cl2
reactant | water | 71 mL | O | H2O
solvent | MeOH | 50 mL | CO | CH4O
solvent | MeOH | 50 mL | CO | CH4O
product | methyl 2-(chloromethyl)-1,3-thiazole-4-carboxylate | 34.6 g, 87% | ClCC=1SC=C(N1)C(=O)OC | C6H6ClNO2S
